US07265104B2
Following the procedure described for Example 1 (A), Step A, N-isopropyl-N-(6-methoxy-pyridin-3-yl)-2-(5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-acetamide (Preparation 11) (120 mg, 0.207 mmol) was condensed with 5-fluoro-1H-indole-3-carbaldehyde (48 mg, 0.248 mmol). Purification by medium pressure chromatography eluting with a solvent gradient (1% MeOH in CH2Cl2 to 7% MeOH in CH2Cl2) yielded 85 mg of 2-[4-(5-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. MS 628.8 (M+1), 626.4 (M−1).

reactant | N-isopropyl-N-(6-methoxy-pyridin-3-yl)-2-(5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-acetamide | 0.207 mmol, 120 mg | C(C)(C)N(C(CN1C2=C(N3C(=NN=C3CC1=O)C1=CC=CC=C1)C=CC=C2)=O)C=2C=NC(=CC2)OC | C27H26N6O3
reactant | 5-fluoro-1H-indole-3-carbaldehyde | 0.248 mmol, 48 mg | FC=1C=C2C(=CNC2=CC1)C=O | C9H6FNO
product | 2-[4-(5-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 85 mg | FC=1C=C2C(=CNC2=CC1)C=C1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(=O)N(C=2C=NC(=CC2)OC)C(C)C)=O | C36H30FN7O3
